*****************************************************************************************************
*****************************************************************************************************
*
* DEVICE        : ZXCT1085E5TA - Diodes Incorporated
* DATE          : 15AUG2019
* SIMULATOR     : PSPICE 16.6
* MODEL VERSION : 1.0
*
******************************************************************************************************
******************************************************************************************************
*
*DISCLAIMER: This spice model is PSPICE compatible, developed in ALLEGRO version 16.6.
*			 If this spice model is simulated in any other spice tool and any error is
*			 encountered, please contact our support team at the link below:
*			 https://www.diodes.com/about/contact-us/technical-support/
*
******************************************************************************************************
******************************************************************************************************
*
* DEVICE NOTES:
* Following features have been modelled:
* 	1. Transient Response
* 	2. Frequency Response
* 	3. Input bias current
* 	4. VOUTH LIMIT
* 	5. PSRR
* 	6. CMRR
******************************************************************************************************
******************************************************************************************************
.SUBCKT ZXCT1085E5TA OUT GND S+ S- VCC  
E_ABM2         N75951 0 VALUE { if(V(S+)>2.7 & V(VCC)>2.7,V(N21601),0)    }
R_R6         GND OUT  125k TC=0,0 
C_C3         GND N27631  1.5n  TC=0,0 
E_E5         N21601 GND N27631 GND 25
E_E4         N27665 GND N40468 N46569 1
L_L2         N27665 N21445  16u  
R_R5         N75465 N21445  110 TC=0,0 
X_U2         N27631 N27627 DIOde 
R_R13         N27627 N27665  100 TC=0,0 
X_U3         N75465 N27631 DIOde 
R_R14         N27665 N27631  140 TC=0,0 
R_R15         N40468 N40451  1k TC=0,0 
G_G1         N40468 N40451 PSSR 0 -1m
R_R22         N46757 N46749  1k TC=0,0 
G_G2         N46757 N46749 N47683 GND -1m
E_E13         N47683 GND N47236 GND 31000
E_E12         N47218 GND S+ GND 25u
V_V1         N46749 N76463 -115.9u
G_ABM2I1         S+ GND VALUE { if(V(S+) <2.7 | V(VCC)<2.7,0,1.7u)    }
G_ABM2I2         S- GND VALUE { if(V(VCC) <2.7 | V(S+)<2.7,0,1.7u)    }
R_R26         N76463 S+  5K TC=0,0 
R_R27         N46569 S-  5K TC=0,0 
R_R28         N40451 N46757  1m TC=0,0 
E_ABM3         OUT 0 VALUE { Limit(V(N75951),0,V(S-)-0.8)    }
E_E15         N89445 GND N89401 GND 1
C_C12         GND N89719  1u  TC=0,0 
R_R29         N89485 N89445  0.7958 TC=0,0 
E_E14         PSSR GND N89397 GND 4200
R_R31         N89719 N89679  0.7958 TC=0,0 
C_C13         GND N89401  1u  TC=0,0 
E_E19         N89907 GND N89897 GND 1
C_C11         GND N89397  1u  TC=0,0 
E_E16         N89559 GND N89485 GND 1
E_E18         N89787 GND N89719 GND 1
R_R30         N89397 N89559  0.7958 TC=0,0 
R_R32         N89401 N89787  0.7958 TC=0,0 
R_R33         N89647 N89907  0.7958 TC=0,0 
C_C10         GND N89485  1u  TC=0,0 
C_C14         GND N89647  1u  TC=0,0 
E_E17         N89679 GND N89647 GND 1
R_R35         N89897 GND  0.2 TC=0,0 
R_R34         N89897 N91577  1k TC=0,0 
C_C15         N89897 N91577  1u  TC=0,0 
E_E20         N91577 GND VCC GND 450n
R_R38         N93690 N47218  1.5k TC=0,0 
E_E21         N93626 GND N93690 GND 1
C_C17         N93690 N47218  1u  TC=0,0 
R_R36         N47236 N93626  53.052 TC=0,0 
R_R37         N47236 GND  12.3228 TC=0,0 
C_C16         N47236 N93626  1u  TC=0,0 
R_R39         N93690 GND  0.1 TC=0,0 
.ENDS ZXCT1085E5TA
*$
.SUBCKT DIOde  1 2 
D1 1 2 IDEAL 
.MODEL IDEAL D N=10m IS=1E-15
.ENDS DIOde
*$
