**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Aluminum Electrolytic Capacitors
* Matchcode:             WCAP-ASLL
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         5/31/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt ASLL_865060543003_22uF 1 2
Rser 1 3 0.46358
Lser 2 4 2.631136726E-09
C1 3 4 0.000022
Rpar 3 4 4545454.54545454
.ends ASLL_865060543003_22uF
