**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Aluminum Electrolytic Capacitors
* Matchcode:             WCAP-ATLI
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/1/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************

*******
.subckt ATLI_860080772001_10uF 1 2
Rser 1 3 0.59
Lser 2 4 0.0000000015
C1 3 4 0.00001
Rpar 3 4 10000000
.ends ATLI_860080772001_10uF
*******
