*********************************************************************
*  NICHICON CORPORATION and MoDeCH confidential
*  Date                 : 7/31/2015
*  File Name            : PCF1C101MCL1GS_v100.lib
*  Part Number          : PCF1C101MCL1GS
*  Simulator            : PSpice
*  Model Type           : RC-ladder 7 Elements Capacitor Model
*  Parameter Ver.       : Ver.1.00
*********************************************************************
* Modeling Conditions:
*   Temperature = 20 degC
*   DC Bias Voltage = 0 V
*   Small Signal Operation
*********************************************************************
* record (history):
* Ver.1.00 7/31/2015
*********************************************************************
*$
.SUBCKT PCF1C101MCL1GS 1 2
L1 1 3 1.4301e-009
R1 3 4 0.012363
C1 4 2 7.681e-005
R2 4 5 0.19389
C2 5 2 1.7566e-005
R3 5 6 48.5322
C3 6 2 2.744e-006
.ENDS
