*********************************************************************
*  NICHICON CORPORATION and MoDeCH confidential
*  Date                 : 07/06/2016
*  File Name            : PCF1E100MCL1GS_v100.lib
*  Part Number          : PCF1E100MCL1GS
*  Simulator            : PSpice
*  Model Type           : RC-ladder 7 Elements Capacitor Model
*  Parameter Ver.       : Ver.1.00
*********************************************************************
* Modeling Conditions:
*   Temperature = 20 degC
*   DC Bias Voltage = 0 V
*   Small Signal Operation
*********************************************************************
* record (history):
* Ver.1.00 07/06/2016
*********************************************************************
*$
.SUBCKT PCF1E100MCL1GS 1 2
L1 1 3 5.504e-010
R1 3 4 0.016868
C1 4 2 8.1278e-006
R2 4 5 0.64648
C2 5 2 1.6102e-006
R3 5 6 27.2039
C3 6 2 2.9307e-007
.ENDS
