**************************************************
* Manufacturer:           Wurth Elektronik
* Kinds:                  SMT Power Inductor
* Matchcode:              WE-LHMI
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Ella
* Date and Time:          2022-06-09
* Team:                   eiSos EDA Service
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt LHMI_5030_74437336022_2u2 1 2
*Rp 1 2 2670.312818732
*Cp 1 2 7.4263445314p
Rs 1 N3 0.025
L1 N3 2 1.95u
.ends LHMI_5030_74437336022_2u2
